US08802704B2
Step 1: (4-bromo-2-methylphenyl)methanol
To a solution of 4-bromo-2-methylbenzoic acid (1.0 g, 4.65 mmol) in Et2O (15 mL) was added lithium aluminumhydride (370 mg, 10.23 mmol) and the mixture was stirred for 4 hours. The reaction mixture was diluted with water (100 mL) and extracted with EtOAc (4×100 mL). The combined organic fractions were dried (MgSO4) and concentrated in vacuo. The residue was purified by flash chromatography (silica, petrol ether/EtOAc) to give the title compound as a colorless gum (752 mg, 80%). 1H NMR (CDCl3, 400 MHz) δ 7.35-7.30 (2H, m), 7.24 (1H, m), 4.65 (2H, s), 2.32 (3H, s).

reactant | 4-bromo-2-methylbenzoic acid | 4.65 mmol, 1.0 g | BrC1=CC(=C(C(=O)O)C=C1)C | C8H7BrO2
reactant | lithium | [Li] | Li
solvent | Et2O | 15 mL | CCOCC | C4H10O
solvent | water | 100 mL | O | H2O
product | (4-bromo-2-methylphenyl)methanol | 752 mg, 80% | BrC1=CC(=C(C=C1)CO)C | C8H9BrO
